US08138181B2
Step 1D: Preparation of 6-fluoro-2-(2-methoxyvinyl)-8-(triisopropylsilyloxy)quinoline:
(Methoxymethyl)triphenylphosphonium chloride (8.355 g, 24.37 mmol) was dissolved in THF (130 mL), cooled to 0° C., and treated dropwise with a solution of 1M KOtBu in THF (26.5 ml, 26.5 mmol). The mixture was warmed and stirred at ambient temperature for 15 minutes. A solution of 6-fluoro-8-(triisopropylsilyloxy)quinoline-2-carbaldehyde (7.70 g, 22.1 mmol) dissolved in THF (15 mL) was added. The reaction was stirred at ambient temperature for 10 hours. The mixture was concentrated in vacuo and applied directly to a column of SiO2 eluting with a stepped gradient from 1-4% Et2O/hexanes, (4.75 g). 1H NMR (400 MHz, CDCl3) δ 7.86 (d, J=8.6 Hz, 1H), 7.74 (d, J=13 Hz, 1H), 7.23 (d, J=8.6 Hz, 1H), 6.93 (dd, J1=2.8 Hz, J2=8.7 Hz, 1H), 6.88 (dd, J1=2.7 Hz, J2=10.2 Hz, 1H), 6.02 (d, J=12.5 Hz, 1H), 3.77 (s, 3H), 1.47-1.38 (m, 3H), 1.15 (d, 18H).

reactant | (Methoxymethyl)triphenylphosphonium chloride | 24.37 mmol, 8.355 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | KOtBu | 1M | CC(C)(C)[O-].[K+]
reactant | 6-fluoro-8-(triisopropylsilyloxy)quinoline-2-carbaldehyde | 22.1 mmol, 7.70 g | FC=1C=C2C=CC(=NC2=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)C=O | C19H26FNO2Si
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 26.5 mmol, 26.5 ml | C1CCOC1 | C4H8O
product | 6-fluoro-2-(2-methoxyvinyl)-8-(triisopropylsilyloxy)quinoline | FC=1C=C2C=CC(=NC2=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)C=COC | C21H30FNO2Si
